US06617326B2
d) 3-(1-Fluoro-1-methylethyl)imidazo[1,2-b][1,2,4]triazine
A stirred mixture of bromoacetaldehyde diethyl acetal (1.20 ml, 7.73 mmol) in concentrated hydrobromic acid (0.38 ml) and water (0.38 ml) was heated at reflux for 40 min, then poured into ethanol (3 ml). The solution was neutralised to pH 7 with solid sodium hydrogencarbonate, then filtered, washing the solid with more ethanol (3 ml). To the filtrate was added 3-amino-5-(1-fluoro-1-methylethyl)-1,2,4-triazine (1.0046 g, 6.43 mmol) and the mixture was stirred at 70-80° C. for 17 h. The mixture was evaporated in vacuo, and the residue was purified by flash chromatography (silica gel, 70% EtOAc/isohexane to 15% MeOH/EtOAc, then 20% EtOAc/CH2Cl2) to give 0.2000 g (17%) of the title compound as a pale yellow solid: 1H NMR (360 MHz, CDCl3) δ 1.82 (6H, d, J 22.1 Hz), 7.97 (1H, d, J 1.3 Hz), 7.99 (1H, d, J 1.2 Hz), 8.69 (1H, d, J 1.0 Hz).

reactant | bromoacetaldehyde diethyl acetal | 7.73 mmol, 1.20 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | ethanol | 3 ml | C(C)O | C2H6O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 3-amino-5-(1-fluoro-1-methylethyl)-1,2,4-triazine | 6.43 mmol, 1.0046 g | NC=1N=NC=C(N1)C(C)(C)F | C6H9FN4
solvent | hydrobromic acid | 0.38 ml | Br | BrH
solvent | water | 0.38 ml | O | H2O
product | 3-(1-Fluoro-1-methylethyl)imidazo[1,2-b][1,2,4]triazine | 0.2000 g, 17% | FC(C)(C)C1=NC=2N(N=C1)C=CN2 | C8H9FN4
